US06939885B2
Synthesis of 4-Bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 122 mg of 4-bromo-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.21 (d, 1H, J=2.4 Hz), 7.49-7.61 (m, 5H), 7.73 (d, 1H, J=8.8 Hz), 8.86 (dd, 2H, J=4.4 Hz, 1.2 Hz), 10.00 (s, 1H). MS: m/z 451.9 (M++1)

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-bromo-benzenesulfonyl chloride | 122 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-Bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C18H12BrClN2O3S
